US04504484
N-allyl-2,4,6-trichlorophenoxyacetamide, 14.6 gm, was added to 100 ml of anhydrous tetrahydrofuran. The solution was cooled to about 10° C. with an ice bath. Then lithium aluminum hydride, 1.86 gm, was added slowly. The resulting mixture was stirred in the cold and allowed to warm to room temperature overnight. The mixture was heated at reflux for 6 hours, then again stirred at room temperature overnight. Then 2 ml water, 2 ml of 15% NaOH solution and 6 ml of water were added sequentially. The mixture was filtered through a pad of Celite and the filtrate stripped to yield 10.6 gm of N-allyl ethanolamine 2,4,6-trichlorophenylether as an oil.

reactant | N-allyl-2,4,6-trichlorophenoxyacetamide | C(C=C)NC(COC1=C(C=C(C=C1Cl)Cl)Cl)=O | C11H10Cl3NO2
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | 2 ml | [OH-].[Na+]
solvent | water | 6 ml | O | H2O
solvent | water | 2 ml | O | H2O
product | N-allyl ethanolamine 2,4,6-trichlorophenylether | 10.6 gm | ClC1=C(C(=CC(=C1)Cl)Cl)OCCNCC=C | C11H12Cl3NO
